US04885363
2. 1-Benzyl-1,4,7,10-tetraazacyclododecane
To a suspension of 890 mg (3.07 mmol) of 1-benzyl-3,11-dioxo-1,4,7,10-tetraazacyclododecane in tetrahydrofuran under nitrogen was added 2.64 ml of 8M borane-methyl sulfide complex (21.1 mol, 7 equivalents). The mixture was heated to reflux allowing the methyl sulfide to distill out of the reaction flask. After 2 hours, the reaction was quenched by the addition of 12 ml 1.8M hydrochloric acid in methanol and refluxed for an additional 3 hours. Volatiles were removed by evaporation, and the solid resuspended in methanol and reevaporated. The product was crystallized from methanol/ethyl acetate; yield 455 mg, 37%. Mass spectrum (CI): m/e 263 (M+H).

reactant | 1-benzyl-3,11-dioxo-1,4,7,10-tetraazacyclododecane | 3.07 mmol, 890 mg | C(C1=CC=CC=C1)N1CC(NCCNCCNC(C1)=O)=O | C15H22N4O2
reactant | methyl sulfide | CSC | C2H6S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Benzyl-1,4,7,10-tetraazacyclododecane | C(C1=CC=CC=C1)N1CCNCCNCCNCC1 | C15H26N4
